US07332485B2
2-((3S,5R)-3,5-Dimethyl-Cyclohexylidene)-[1,3]Dithiane
To a solution of 2-trimethylsilyl-1,3-dithiane (30.1 g, 0.16 mol) in THF (250 mL) at 0° C. under an argon atmosphere was added a solution of n-butyl lithium (2.5 M in hexanes, 64 mL, 0.16 mol) and the mixture was cooled to −78° C. A solution of cis-3,5-dimethyl cyclohexanone (10 g, 0.079 mol) in THF (30 mL) was added over 10 min. After 3.5 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (100 mL). The aqueous phase was extracted with EtOAc (100 mL×4) and the combined organic layers were dried (MgSO4) and were evaporated. The reaction by-products were removed by vacuum distillation to yield the desired product (16.6 g, 92%). MH+229

reactant | 2-trimethylsilyl-1,3-dithiane | 0.16 mol, 30.1 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | n-butyl lithium | 0.16 mol, 2.5 M, 64 mL | C(CCC)[Li]
reactant | cis-3,5-dimethyl cyclohexanone | 0.079 mol, 10 g | C[C@@H]1CC(C[C@@H](C1)C)=O | C8H14O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-((3S,5R)-3,5-Dimethyl-Cyclohexylidene)-[1,3]Dithiane | 16.6 g, 92% | C[C@@H]1CC(C[C@@H](C1)C)=C1SCCCS1 | C12H20S2
